US08283353B2
3′-fluoro-4′-({4-[trans-4-(2-hydroxy-1-methylethoxy)cyclohexyl]-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl}methyl)biphenyl-2-carbonitrile
A mixture of ethyl 2-[(trans-4-{6-[(2′-cyano-3-fluorobiphenyl-4-yl)methyl]-5-oxo-7-propyl[1,2,4]triazolo[1,5-a]pyrimidin-4(5H)-yl}cyclohexyl)oxy]propanoate (1.5 g), lithium tetrahydroborate (0.18 g) and tetrahydrofuran (15 mL) was stirred at 0° C. for 1 hr and then at room temperature for 6 hr. Lithium tetrahydroborate (0.18 g) was further added, and the mixture was stirred at room temperature for 15 hr. The reaction mixture was added to saturated aqueous ammonium chloride solution, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography to give the title compound as a colorless solid (0.81 g, 58%).

reactant | ethyl 2-[(trans-4-{6-[(2′-cyano-3-fluorobiphenyl-4-yl)methyl]-5-oxo-7-propyl[1,2,4]triazolo[1,5-a]pyrimidin-4(5H)-yl}cyclohexyl)oxy]propanoate | 1.5 g | C(#N)C1=C(C=CC=C1)C1=CC(=C(C=C1)CC=1C(N(C=2N(C1CCC)N=CN2)[C@@H]2CC[C@H](CC2)OC(C(=O)OCC)C)=O)F | C33H36FN5O4
reactant | lithium tetrahydroborate | 0.18 g | [BH4-].[Li+]
reactant | Lithium tetrahydroborate | 0.18 g | [BH4-].[Li+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | 3′-fluoro-4′-({4-[trans-4-(2-hydroxy-1-methylethoxy)cyclohexyl]-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl}methyl)biphenyl-2-carbonitrile | 0.81 g, 58% | FC=1C=C(C=CC1CC=1C(N(C=2N(C1CCC)N=CN2)[C@@H]2CC[C@H](CC2)OC(CO)C)=O)C=2C(=CC=CC2)C#N | C31H34FN5O3
